US07253165B2
Synthesis of 4-benzo[b]thiophen-3-yl-phenol (Scheme II, Compound 9)
Cool a solution of 3-(4-methoxy-phenyl)-benzo[b]thiophene (5.00 g, 20.8 mmol) and dichloromethane (anhydrous, 120 mL). Add 1.0 M solution of boron tribromide in dichloromethane (60.0 mL, 60.0 mmol) over a time period of 15 minutes. Stir reaction mixture at 0° C. for 2 hours and let warm and stir at room temperature overnight. TLC (40% dichloromethane in heptane) shows that the starting material is consumed. Transfer reaction mixture to a mixture of ice:water (200 g:200 mL) via a cannula and let stir for 0.5 hours. Separate the layers and extract the aqueous layer with dichloromethane (250 mL). Combine organic layers, wash with water (2×200 mL), dry (MgSO4), and concentrate (in vacuo) to obtain a brown, viscid residue. Purify residue by column (silica) chromatography (dichloromethane) to obtain a clear oil, which solidifies. Dry (room temperature, 0.8 mm Hg) for 3 hours to give the title compound (4.35 g, 92% Yield).

reactant | 3-(4-methoxy-phenyl)-benzo[b]thiophene | 20.8 mmol, 5.00 g | COC1=CC=C(C=C1)C=1C2=C(SC1)C=CC=C2 | C15H12OS
reactant | dichloromethane | 120 mL | ClCCl | CH2Cl2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 60.0 mmol, 60.0 mL | ClCCl | CH2Cl2
reactant | water | 200 mL, 200 g | O | H2O
solvent | heptane | CCCCCCC | C7H16
product | 4-benzo[b]thiophen-3-yl-phenol | 4.35 g, 92% Yield | S1C2=C(C(=C1)C1=CC=C(C=C1)O)C=CC=C2 | C14H10OS
